US04795821
[R]-(-)-9-chloro-3-methyl-5-nonyn-4-one was prepared by the method of Example 35 from sec-butyl(5-chloro-1-pentynyl)isopropoxyborane. [α]75D -12.84 (c 1.89, MeOH); IR (neat) 2213, 1671 cm-1. 13C NMR (CDCl3) δ191.9, 92.2, 80.5, 50.0, 43.2, 30.5, 25.8, 16.4, 15.5, 11.4. MS m/e % (chemical ionization) 187 (100).

reactant | sec-butyl(5-chloro-1-pentynyl)isopropoxyborane | C(C)(CC)B(OC(C)C)C#CCCCCl | C12H22BClO
reactant | MeOH | CO | CH4O
product | [R]-(-)-9-chloro-3-methyl-5-nonyn-4-one | ClCCCC#CC([C@@H](CC)C)=O | C10H15ClO
